US08486967B2
d) 4-(3-Chloro-4-fluorophenyl)-N-(1-(2-chloropyridin-4-yl)piperidin-4-yl)-6-methylbenzo[d]thiazol-2-amine
To a solution of 2-bromo-4-(3-chloro-4-fluorophenyl)-6-methylbenzo[d]thiazole (0.06 g, 0.2 mmol) in dimethylacetamide (1 mL) was added 1-(2-chloropyridin-4-yl)piperidin-4-amine dihydrochloride (0.05 g, 0.2 mmol) followed by triethylamine (70 L, 0.5 mmol) and the mixture was heated to 175° C. for 1 h in a microwave. The reaction was then diluted with dichloromethane, washed with water, brine, dried with sodium sulfate and concentrated. The product was purified by preparative HPLC to yield the title compound as light yellow solid (0.02 g, 24%).

reactant | 2-bromo-4-(3-chloro-4-fluorophenyl)-6-methylbenzo[d]thiazole | 0.2 mmol, 0.06 g | BrC=1SC2=C(N1)C(=CC(=C2)C)C2=CC(=C(C=C2)F)Cl | C14H8BrClFNS
reactant | 1-(2-chloropyridin-4-yl)piperidin-4-amine dihydrochloride | 0.2 mmol, 0.05 g | Cl.Cl.ClC1=NC=CC(=C1)N1CCC(CC1)N
reactant | triethylamine | 0.5 mmol, 70 L | C(C)N(CC)CC | C6H15N
solvent | dimethylacetamide | 1 mL | CC(=O)N(C)C | C4H9NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-(3-Chloro-4-fluorophenyl)-N-(1-(2-chloropyridin-4-yl)piperidin-4-yl)-6-methylbenzo[d]thiazol-2-amine | 0.02 g, 24% | ClC=1C=C(C=CC1F)C1=CC(=CC2=C1N=C(S2)NC2CCN(CC2)C2=CC(=NC=C2)Cl)C | C24H21Cl2FN4S
